US07851473B2
N-(3-Methylisoxazol-5-yl)-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl (3-methylisoxazol-5-yl)carbamate (245 mg, 0.897 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (200 mg, 0.815 mmol) and diisopropylethylamine (0.156 ml, 0.897 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 3 hours. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 135 mg (44.9%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl (3-methylisoxazol-5-yl)carbamate | 0.897 mmol, 245 mg | CC1=NOC(=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H7Cl3N2O3
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 0.815 mmol, 200 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 0.897 mmol, 0.156 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-(3-Methylisoxazol-5-yl)-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide | 135 mg, 44.9% | CC1=NOC(=C1)NC(=O)N1CCN(CC1)C=1SC=C(N1)C1=CC=CC=C1 | C18H19N5O2S
